US08372874B2
Activation of 145 mg (0.58 mmol) of 2-{[(2R)-1,4-dioxan-2-ylmethyl]sulfanyl}-2-methylpropanoic acid as its acid chloride is achieved by treatment with oxalyl chloride (0.1 mL, 1.16 mmol) and DMF (1 drop) in DCM (15 mL) at room temperature for 16 h. The solvent is removed under reduced pressure and the crude acid chloride is dissolved in anhydrous THF (5 mL) and added to a solution of 147 mg (0.58 mmol) of 3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-amine and N,N-diisopropylethylamine (0.30 mL, 1.73 mmol) in THF (10 mL). The reaction is heated to 60° C. for 18 h. After cooling to room temperature, the reaction mixture is concentrated under reduced pressure. The residue is diluted with DCM (20 mL) and washed with saturated aqueous NaHCO3 solution (10 mL). The organic layer is dried (MgSO4), filtered and the filtrate is concentrated under reduced pressure. The residue is purified by column chromatography (silica, eluent: heptanes, 0-30% ethyl acetate) to afford 226 mg of 2-{[(2R)-1,4-dioxan-2-ylmethyl]sulfanyl}-2-methyl-N-{3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-yl}propanamide of 63% purity. This intermediate is taken on in the next step without further purification. Yield: 54%, ES-MS: m/z 479 [M+Na]

reactant | 2-{[(2R)-1,4-dioxan-2-ylmethyl]sulfanyl}-2-methylpropanoic acid | 0.58 mmol, 145 mg | O1[C@H](COCC1)CSC(C(=O)O)(C)C | C9H16O4S
reactant | oxalyl chloride | 1.16 mmol, 0.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-amine | 0.58 mmol, 147 mg | CC(C)([C@H](C)OC1OCCCC1)C1=NOC(=C1)N | C13H22N2O3
reactant | N,N-diisopropylethylamine | 1.73 mmol, 0.30 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{[(2R)-1,4-dioxan-2-ylmethyl]sulfanyl}-2-methyl-N-{3-[(3S)-2-methyl-3-(oxan-2-yloxy)butan-2-yl]-1,2-oxazol-5-yl}propanamide | 226 mg, Yield: 54% | O1[C@H](COCC1)CSC(C(=O)NC1=CC(=NO1)C(C)([C@H](C)OC1OCCCC1)C)(C)C | C22H36N2O6S
